US04022791
A dry flask was charged with 650 ml. each of nitrobenzene and sym-tetrachloroethane, 104 g. (1.04 moles) succinic anhydride and 130 g. (0.913 mole) p-chloroanisole. The mixture was stirred at 5° C and 276 g. (2.07 moles) of anhydrous AlCl3 was added portionwise over a 90 minute period such that the temperature did not exceed 10° C. The resulting mixture was stirred under nitrogen for 5 days at 7° C and then poured into a mixture of 1 kg. of ice and 176 ml. concentrated hydrochloric acid. The thus quenched mixture was steam distilled until all organic solvents were removed. The residual aqueous-oil combination was cooled to 20° C whereupon the oil phase crystallized. The aqueous supernate was then drawn off and one liter of methylene chloride was added to the remaining crystallized solid mass. The resulting slurry was warmed at 25° C with stirring, and then filtered, and the filtered-off solids washed with CH2Cl2. Upon drying of the washed solids, 84.4 g. of 3-(5-chloro-2-hydroxybenzoyl) propionic acid, m.p. 178°-182° C., was obtained.

reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | sym-tetrachloroethane | C(C(Cl)Cl)(Cl)Cl | C2H2Cl4
reactant | succinic anhydride | 1.04 moles | C1(CCC(=O)O1)=O | C4H4O3
reactant | p-chloroanisole | 0.913 mole | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | AlCl3 | 2.07 moles | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
product | 3-(5-chloro-2-hydroxybenzoyl) propionic acid | ClC=1C=CC(=C(C(=O)CCC(=O)O)C1)O | C10H9ClO4
